US05959107
5-Benzoylsulfanylisoquinoline 1.41 g (5.3 mmol) was dissolved in a mixture solution of methanol (50 ml) and chloroform (5 ml), sodium methoxide 500 mg (9.3 mmol) was added, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, the resulting residue was dissolved in DMF 50 ml, 4-nitrofluorobenzene 0.75 g (5.3 mmol) was added, and the mixture was heated and stirred at 100° C. for 3.5 hours. After cooling, water was added to the reaction mixture, the resulting precipitate was collected and washed with water to obtain 5-(4-nitrophenylsulfanyl)isoquinoline 1.36 g (90.9%).

reactant | 5-Benzoylsulfanylisoquinoline | 5.3 mmol, 1.41 g | C(C1=CC=CC=C1)(=O)SC1=C2C=CN=CC2=CC=C1 | C16H11NOS
reactant | sodium methoxide | 9.3 mmol, 500 mg | C[O-].[Na+]
reactant | 4-nitrofluorobenzene | 5.3 mmol, 0.75 g | [N+](=O)([O-])C1=CC=C(C=C1)F | C6H4FNO2
reactant | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-nitrophenylsulfanyl)isoquinoline | 1.36 g, 90.9% | [N+](=O)([O-])C1=CC=C(C=C1)SC1=C2C=CN=CC2=CC=C1 | C15H10N2O2S
